US06677345B1
2,6-Diamino-4-benzyloxypyrimidine (NU6038)
Sodium (0.41 g, 17.8 mmol) was added to benzyl alcohol (15 ml) under a nitrogen atmosphere and the mixture was heated at 150° C. for 1.5 h. 2,6-Diamino-4-chloropyrimidine (2.16 g, 14.94 mmol) was added and the reaction mixture was stired at 180° C. for a further 2 h. Volatiles were removed in vacuo and the resulting residue was chromatographed on silia with dichloromethane: methanol (9:1) as eluent, to yield the title product as a white solid (1.98 g, 62%); νmax/cm−1 3347 (NH), 1498 (C6H5), 1608 (C6H5); δH (200 MHz, d6-DMSO) 5.20 (1H, s, C(5)H), 5.32 (2H, s, OCH2), 6.05 (2H, br s, NH2), 6.17 (2H, br s, NH2), 7.41-7.48 (5H, m, C6H5); m/z (+EI) 216 (M+, 100%), 139 (M+-C6H5, 33), 91 (94).

reactant | Sodium | 17.8 mmol, 0.41 g | [Na] | Na
reactant | benzyl alcohol | 15 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,6-Diamino-4-chloropyrimidine | 14.94 mmol, 2.16 g | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
product | 2,6-Diamino-4-benzyloxypyrimidine | 1.98 g, 62% | NC1=NC(=CC(=N1)OCC1=CC=CC=C1)N | C11H12N4O
